US07112593B2
A mixture of 5.7 g of 2,6-dibromopyridine, 2.5 g of 3-hydroxypyrrolidine, 3.6 ml of 1,8-diazabicyclo[5.4.0]-7-undecene (DBU) and 20 ml of tetrahydrofuran was heated under stirring under nitrogen atmosphere in an oil bath at 70° C. for 11 hours. The reaction mixture was separated with ethyl acetate-water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silicagel column chromatography with 10–30% ethyl acetate/hexane, to give 5.9 g of 2-bromo-6-(3-hydroxypyrrolidin-1-yl)pyridine.

reactant | 2,6-dibromopyridine | 5.7 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 3-hydroxypyrrolidine | 2.5 g | OC1CNCC1 | C4H9NO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 3.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-bromo-6-(3-hydroxypyrrolidin-1-yl)pyridine | 5.9 g | BrC1=NC(=CC=C1)N1CC(CC1)O | C9H11BrN2O
